US04155913
0.35 g of 2-(2-acetylhydrazino)-7-chloro-5-(2,6-difluorophenyl)-3H-thieno[2,3-e]-1,4-diazepine are distributed on a metal plate in as thin as possible a layer and maintained at 270° C. for 1 minute in a sand bath. The melt is taken up in methylene chloride and shaken three times with 0.1-N hydrochloric acid in order to remove the starting material. The methylene chloride is distilled off and the product recrystallized from ethyl acetate containing active carbon. There is obtained 2-chloro-4-(2,6-difluorophenyl)-9-methyl-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine, melting point 185°-187° C.

reactant | 2-(2-acetylhydrazino)-7-chloro-5-(2,6-difluorophenyl)-3H-thieno[2,3-e]-1,4-diazepine | 0.35 g | C(C)(=O)NNC=1CN=C(C2=C(N1)SC(=C2)Cl)C2=C(C=CC=C2F)F | C15H11ClF2N4OS
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-(2,6-difluorophenyl)-9-methyl-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3F)F | C15H9ClF2N4S
